US06921759B2
Step 1: Preparation of 4-fluoro-2-(methylthio)benzoic acid
A solution of 2-bromo-4-fluorobenzoic acid (15 g, 68.5 mmol, Aldrich) in THF (150 mL) under Argon at 0 degrees C. was treated with chloro(methyl)magnesium (5.64 g, 75.34 mmol, 2.94 M in THF) over 5 minutes. The temperature during addition was maintained below 10 degrees C. The resulting solution was cooled to −78 degrees C. and n-butyllithium (9.65 g, 150.7 mmol, 2.5M in hexanes) was added over 10 minutes. The reaction was kept below −65 degrees C. during the addition. The reaction was stirred at −78 degrees C. for 50 minutes. A solution of (methyldithio)methane (38.71 g, 410.9 mmol) in THF (20 mL), precooled to −78 degrees C., was added by cannula. The reaction was stirred for 10 minutes, warmed to zero degrees C. and stirred at zero degrees C. for 2 hours until a solid began to precipitate. The reaction was allowed to warm to 25 degrees C. The material was filtered and the solid partitioned between ethyl acetate (400 mL) and water (400 mL). The water layer was acidified with HCl to pH of less than 1 and then extracted with ethyl acetate (4×500 mL). The organic was dried over Na2SO4, filtered, and reduced to a small volume in vacuo to produce crystals. The crystals were filtered and dried in vacuo to afford the title compound.

reactant | 2-bromo-4-fluorobenzoic acid | 68.5 mmol, 15 g | BrC1=C(C(=O)O)C=CC(=C1)F | C7H4BrFO2
reactant | chloro(methyl)magnesium | 75.34 mmol, 2.94 M, 5.64 g | Cl[Mg]C
reactant | n-butyllithium | 150.7 mmol, 2.5M, 9.65 g | C(CCC)[Li]
reactant | (methyldithio)methane | 410.9 mmol, 38.71 g | CSSC | C2H6S2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-fluoro-2-(methylthio)benzoic acid | FC1=CC(=C(C(=O)O)C=C1)SC | C8H7FO2S
